US04992474
[2-[(8-Bromooctyl)oxy]ethyl]benzene
(4.3 g), T.l.c. [B] Rf 0.3, from 1,8-dibromooctane (13.4 g) and benzeneethanol (20 g).

reactant | 1,8-dibromooctane | 13.4 g | BrCCCCCCCCBr | C8H16Br2
reactant | benzeneethanol | 20 g | C1(=CC=CC=C1)CCO | C8H10O
product | [2-[(8-Bromooctyl)oxy]ethyl]benzene | BrCCCCCCCCOCCC1=CC=CC=C1 | C16H25BrO
